US05846995
(+)-N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-4-fluorobenzamide
A mixture of 0.090 gm (0.273 mMol) of (+)-N,N-dimethyl-8-(tert-butoxycarbonyl)amino-1,2,3,4-tetrahydro-2-dibenzofuranamine and 1 mL of trifluoro-acetic acid was stirred at room temperature for 20 minutes. The excess trifluoroacetic acid was then removed under reduced pressure. The residue was dissolved in 5 mL of tetrahydrofuran and to this solution were added 1.5 mL of triethylamine followed by 0.05 mL (0.42 mMol) of 4-fluorobenzoyl chloride. After stirring for 1 hour the volatiles were removed under reduced pressure. The residue was taken up in 5 mL of dichloromethane and stirred with dilute aqueous sodium carbonate. After stirring for 16 hours the dichloromethane layer was separated and the aqueous layer extracted with fresh dichloromethane. The dichloromethane extracts were combined, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 5% methanol (containing 5% ammonium hydroxide) in chloroform. Fractions containing product were combined and concentrated under reduced pressure. The resulting residue was crystallized from toluene/hexane to provide 0.058 gm (60%) of the title compound as a crystalline solid in two crops.

reactant | (+)-N,N-dimethyl-8-(tert-butoxycarbonyl)amino-1,2,3,4-tetrahydro-2-dibenzofuranamine | 0.273 mMol, 0.090 gm | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(=O)OC(C)(C)C)CC1)C | C19H26N2O3
reactant | trifluoro-acetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-fluorobenzoyl chloride | 0.42 mMol, 0.05 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | (+)-N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-4-fluorobenzamide | 0.058 gm, 60% | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(C3=CC=C(C=C3)F)=O)CC1)C | C21H21FN2O2
